data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_118433_1,[C:1](/[C:2]([C:4]([C:3](=[O:5])[H:9])([H:7])[H:10])=[N:6]/[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:2](/[C:4](=[C:3](\[O:5][H:7])[H:9])[H:10])=[N:6]/[H:8])([H:11])([H:12])[H:13],67.27803999999622
MR_294536_0,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([N:5](/[C:6]([C:2]([H:13])([H:14])[H:15])=[N:8]/[H:12])[N:7]([H:10])[H:11])[H:9]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])([N:8](/[C:6]([C:2]([H:13])([H:14])[H:15])=[N:5]/[N:7]([H:10])[H:11])[H:12])[H:9],62.62638250000535
MR_428870_0,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:17])([H:21])[H:22])([N:5]([C:2]([H:14])([H:15])[H:16])[C:6]([N:8]([H:12])[H:13])=[O:9])[N:7]([H:10])[H:11]>>[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:17])([H:21])[H:22])([N:5]([C:2]([H:14])([H:15])[H:16])[N:7]([H:10])[H:11])[C:6]([N:8]([H:12])[H:13])=[O:9],62.571790000036174
MR_229479_0,[C:1]([N:2](/[C:3](=[N:7]/[H:9])[H:10])/[C:4](=[C:5](\[O:6][H:8])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:4](/[C:5](/[C:3](=[N:7]/[H:9])[H:10])([O:6][H:8])[H:12])[H:11])([H:13])([H:14])[H:15],53.96311749997707
MR_465056_1,[C:1]1([H:14])([H:15])[C:4](=[O:10])[C:3](/[C:6](=[N:2]/[O:8][H:11])[H:13])([O:9][H:12])[C:5]1=[C:7]([H:16])[H:17]>>[C:1]1([H:14])([H:15])[C:4](=[O:10])[C:3]([O:9][H:12])=[C:6]([H:13])[N:2]([O:8][H:11])[C:5]1=[C:7]([H:16])[H:17],52.34291250003707
MR_155882_0,[C:1]([N:3](/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:10])[O:7][H:9])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](\[C:5]([C:2]([H:14])([H:15])[H:16])([O:6][H:8])[H:10])[O:7][H:9])([H:11])([H:12])[H:13],40.78624500000174
MR_300539_0,[C:1](/[C:4](=[N:7]/[N:3]([H:10])[H:11])[H:12])([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:8])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:4]([O:5][C:2]([H:13])([H:14])[H:15])([H:12])[N:7]1[N:3]([H:10])[H:11],62.77886500001273
MR_343670_1,[C:1](/[C:4]([N:3](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:8]\[H:12])[H:9])=[N:7]/[N:6]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:4](=[N:3]\[H:9])[N:7](/[C:5]([C:2]([H:16])([H:17])[H:18])=[N:8]\[H:12])[N:6]([H:10])[H:11])([H:13])([H:14])[H:15],46.71047249998992
MR_34985_0,[C:1]([C:2]([C:4](=[C:6]([H:15])[H:16])[H:12])=[C:5]([H:13])[H:14])([N:3]([H:10])[H:11])([O:7][H:8])[H:9]>>[C:1]1([N:3]([H:10])[H:11])([H:9])[C:2]([C:4](=[C:6]([H:15])[H:16])[H:12])([O:7][H:8])[C:5]1([H:13])[H:14],66.55516000000219
MR_257764_0,[C:1]([C:2]([C:6]([H:22])([H:23])[H:24])([O:9][H:10])[H:12])([C:5]([H:19])([H:20])[H:21])([N:7]([C:4]([H:16])([H:17])[H:18])[O:8][C:3]([H:13])([H:14])[H:15])[H:11]>>[C:1]([C:5]([H:19])([H:20])[H:21])([N:7]([C:2]([C:6]([H:22])([H:23])[H:24])([O:9][H:10])[H:12])[C:4]([H:16])([H:17])[H:18])([O:8][C:3]([H:13])([H:14])[H:15])[H:11],72.85086749997987
MR_5499_0,[C:1]([N:6]([C:5](/[N:2]=[N:4]/[H:8])([N:3]([H:9])[H:10])[H:11])[H:7])([H:12])([H:13])[H:14]>>[C:1](/[N:6]=[C:5](/[N:2]([N:3]([H:9])[H:10])[N:4]([H:7])[H:8])[H:11])([H:12])([H:13])[H:14],53.90287750002216
MR_151207_2,[C:1](/[N:6]=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:3](/[C:5](=[N:7]\[H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1]([N:6](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:3]\[H:8])/[C:5](=[N:7]\[H:9])[H:10])([H:11])([H:12])[H:13],44.83926750000592
MR_11623_2,[C:1](=[N:2]\[H:6])(\[N:4]=[C:3]([H:9])[H:10])[N:5]([H:7])[H:8]>>[C:1](\[N:2]([H:6])[H:7])([N:4]=[C:3]([H:9])[H:10])=[N:5]/[H:8],47.05057750000513
MR_684813_0,[C:1](\[O:3]/[C:2](=[N:6]\[H:8])[H:10])(=[N:5]\[O:4][H:7])[H:9]>>[C:1](=[O:3])([N:5](/[C:2](=[N:6]\[H:8])[H:10])[O:4][H:7])[H:9],32.509519999996286
MR_341287_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C@:2]([C:6]([O:7][H:9])=[O:8])([H:11])[N:5]1[H:10]>>[C:1](/[C:2](=[N:5]\[H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[C:6]([O:7][H:9])=[O:8],69.1059475000182
MR_218194_0,[C:1](/[C:3](=[N:5]/[C:2]([O:4][H:7])=[O:6])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@:3]1([H:8])[N:5]=[C:2]([O:4][H:7])[O:6]1)([H:9])([H:10])[H:11],40.58920999999984
MR_291585_1,[C:1](/[C:3](=[C:4](/[C:2]([H:15])([H:16])[H:17])[O:7][H:10])[O:6][H:9])(/[C:5](=[N:8]\[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C@:3](/[C:5](=[N:8]\[H:11])[H:14])([O:6][H:9])[C@@:4]1([C:2]([H:15])([H:16])[H:17])[O:7][H:10],69.82317999999083
MR_341086_2,[C@:1](/[C:4](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[O:8][H:9])([N:5]([H:11])[H:12])([O:7][C:2]([H:14])([H:15])[H:16])[H:10]>>[C@@:1]1([N:5]([H:11])[H:12])([H:10])[C@@:4]([O:7][C:2]([H:14])([H:15])[H:16])([O:8][H:9])[C@@:6]1([C:3]([H:17])([H:18])[H:19])[H:13],53.56716500001369
MR_552476_0,[C:1]1([N:2]([H:8])[H:9])([H:7])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:11])[N:6]1[H:10]>>[C:1](=[N:2]/[H:8])(\[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([N:6]([H:9])[H:10])[H:11])[H:7],45.782400000014576
MR_249781_1,[C:1](/[C:2](=[C:4](\[O:8][H:10])[H:13])[O:7][H:9])(/[C:6](=[C:5](\[N:3]([H:11])[H:12])[H:16])[H:17])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[C:2]([C:4]([O:8][H:10])([H:11])[H:13])([O:7][H:9])[C:6]1(/[C:5](=[N:3]/[H:12])[H:16])[H:17],37.13042999999345
